US05736568
A mixture of 4-bromomethylbenzonitrile (49.7 g), N-methylethanolamine (19.0 g) and xylene (100 ml) was boiled under reflux with stirring for 7 hours and then worked up as described in the previous example to give an oil which was distilled at 142°-146° C. at 0.5 mbar to give 4-[N-(2-hydroxyethyl)-N-methylaminomethyl]benzonitrile as an oil.

reactant | 4-bromomethylbenzonitrile | 49.7 g | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
reactant | N-methylethanolamine | 19.0 g | CNCCO | C3H9NO
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-[N-(2-hydroxyethyl)-N-methylaminomethyl]benzonitrile | OCCN(C)CC1=CC=C(C#N)C=C1 | C11H14N2O
